US04081537
Under nitrogen, 250 mg. of 17β-hydroxy-18-methyl-17α-propinyl-4,15-estradien-3-one in 2.5 ml. of pyridine is agitated at room temperature for 2 hours with 1 ml. of acetic anhydride and 10 mg. of 4-(dimethylamino)-pyridine. After the reaction mixture has been worked up as described in Example 36, and after the crude product has been chromatographed on silica gel with acetone-hexane, 110 mg. of 17β-acetoxy-18-methyl-17α-propin-1-yl-4,15-estradien-3-one is obtained.

reactant | 17β-hydroxy-18-methyl-17α-propinyl-4,15-estradien-3-one | O[C@@]1([C@]2(CC)[C@@H](C=C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)C#CC | C22H28O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-(dimethylamino)-pyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 17β-acetoxy-18-methyl-17α-propin-1-yl-4,15-estradien-3-one | C(C)(=O)O[C@@]1([C@]2(CC)[C@@H](C=C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)C#CC | C24H30O3
